US09216972B2
To a mixture of tert-butyl 7-bromo-4-oxo-3,4-dihydroquinoline-1(2H)-carboxylate (0.500 g, 1.53 mmol) and morpholine (0.668 mL, 7.66 mmol) in toluene (10 mL) at 0° C. was added titanium(IV) chloride [1M in toluene] (0.843 mL, 0.843 mmol) dropwise. The ice-bath was removed, and the orange, heterogeneous reaction mixture was stirred at room temperature overnight. The heterogeneous, orange reaction mixture was filtered under reduced pressure through a pad of Celite which was then rinsed with toluene (3×10 mL). The pale yellow filtrate was concentrated under reduced pressure to give tert-butyl 7-bromo-4-morpholinoquinoline-1(2H)-carboxylate (0.598 g, 1.513 mmol, 99% yield) as a yellow oil. The product had LC/MS M+1=395.1 and 397.1.

reactant | tert-butyl 7-bromo-4-oxo-3,4-dihydroquinoline-1(2H)-carboxylate | 1.53 mmol, 0.500 g | BrC1=CC=C2C(CCN(C2=C1)C(=O)OC(C)(C)C)=O | C14H16BrNO3
reactant | morpholine | 7.66 mmol, 0.668 mL | N1CCOCC1 | C4H9NO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | titanium(IV) chloride | 0.843 mmol, 1M, 0.843 mL | [Ti](Cl)(Cl)(Cl)Cl
product | tert-butyl 7-bromo-4-morpholinoquinoline-1(2H)-carboxylate | 1.513 mmol, 0.598 g, 99% yield | BrC1=CC=C2C(=CCN(C2=C1)C(=O)OC(C)(C)C)N1CCOCC1 | C18H23BrN2O3
